US07816344B2
3-(3-Benzyloxy-propoxy)-2-hydroxy-benzaldehyde
NaH (2.95 g, 72.4 mmol) was added to an ice-cold solution of 2,3-dihydroxybenzaldehyde (5.0 g, 36 mmol) in anhydrous DMSO (45 mL). Benzyl-3-bromopropyl ether (6.45 mL, 36.2 mmol) was then added and the mixture was stirred at rt for 12 h. The mixture was neutralized using 1 N HCl and then extracted with EtOAc. The organic fraction was washed with H2O and concentrated in vacuo. The residue was purified by flash chromatography (8:2 hexane/EtOAc) to give the title compound as a brown oil: yield 8.40 g (81%).

reactant | NaH | 72.4 mmol, 2.95 g | [H-].[Na+]
reactant | 2,3-dihydroxybenzaldehyde | 36 mmol, 5.0 g | OC1=C(C=O)C=CC=C1O | C7H6O3
reactant | Benzyl-3-bromopropyl ether | 36.2 mmol, 6.45 mL | C(C1=CC=CC=C1)C(CCOCCC(CC1=CC=CC=C1)Br)Br | C20H24Br2O
reactant | HCl | 1 N | Cl | ClH
solvent | DMSO | 45 mL | CS(=O)C | C2H6OS
product | 3-(3-Benzyloxy-propoxy)-2-hydroxy-benzaldehyde | C(C1=CC=CC=C1)OCCCOC=1C(=C(C=O)C=CC1)O | C17H18O4
